US07291642B2
17b) 2,3-Dichloro-N-methyl-N-[2-(2-oxoimidazolidin-1-yl)ethyl]benzenesulphonamide
A solution of 0.57 g (1.69 mmol) of 2,3-dichloro-N-[2-(2-oxoimidazolidin-1-yl)ethyl]benzenesulphonamide and 0.23 g (1.7 mmol) of potassium carbonate in 10 ml dimethylformamide was stirred at room temperature for 10 minutes, 0.16 ml (1.69 mmol) of dimethyl sulphate were then added and the mixture was stirred at room temperature overnight. The mixture was then diluted with water and extracted with ethyl acetate. The combined organic extracts were dried over sodium sulphate and concentrated. The product obtained in this manner was crystallized using diethyl ether.

reactant | 2,3-dichloro-N-[2-(2-oxoimidazolidin-1-yl)ethyl]benzenesulphonamide | 1.69 mmol, 0.57 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)NCCN1C(NCC1)=O | C11H13Cl2N3O3S
reactant | potassium carbonate | 1.7 mmol, 0.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 1.69 mmol, 0.16 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,3-Dichloro-N-methyl-N-[2-(2-oxoimidazolidin-1-yl)ethyl]benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)N(CCN1C(NCC1)=O)C | C12H15Cl2N3O3S
